US06410566B1
A solution of 1-(4-chlorobenzyl)-3-{(tert-butoxycarbonyl)amino}piperidine (2.55 g, 7.85 mmol) in CH2OH (25 mL) was treated with 1 N HCl-Et2O (50 mL). The reaction mixture was stirred at 25° C. for 15 h. The solvent was removed under reduced pressure to afford 3-amino-l-(4-chlorobenzyl)piperidine dihydrochloride as an amorphous solid (2.49 g, quant).

reactant | 1-(4-chlorobenzyl)-3-{(tert-butoxycarbonyl)amino}piperidine | 7.85 mmol, 2.55 g | ClC1=CC=C(CN2CC(CCC2)NC(=O)OC(C)(C)C)C=C1 | C17H25ClN2O2
solvent | HCl Et2O | 1 N, 50 mL | Cl.CCOCC
product | 3-amino-l-(4-chlorobenzyl)piperidine dihydrochloride | Cl.Cl.NC1CN(CCC1)CC1=CC=C(C=C1)Cl | InChI=1S/C12H17ClN2.2ClH/c13-11-5-3-10(4-6-11)8-15-7-1-2-12(14)9-15;;/h3-6,12H,1-2,7-9,14H2;2*1H
